US05644056
Preparation of N-(3-hydroxy-2-propyl)-2,3,4-trifluoroaniline (2)
2,3,4-Trifluoroaniline was reductively alkylated in the presence of hydroxyacetone using a palladium on carbon catalyst. 30 g of a 5% Pd/C catalyst (57.3% H2O)) was slurried in 200 ml of absolute methanol. The mixture was allowed to settle and 90-95% of the liquid was decanted. The process was then repeated three times. 2,3,4-trifluoroaniline (118 g, 0.8 mole) of was charged into a glass autoclave liner containing the catalyst. Hydroxyacetone (80 g, 1.08 mole) was then added and the mixture was purged with nitrogen. Hydrogenation was initiated at 65° C. and continued to a maximum temperature of 107° C. Hydrogen uptake continued for one hour at a pressure of between 430 and 450 psi at which time 75% of the alkylated product (3) was obtained with the remainder being unreacted 2,3,4-trifluoroaniline and hydroxyacetone.

reactant | 2,3,4-Trifluoroaniline | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | hydroxyacetone | OCC(C)=O | C3H6O2
reactant | 2,3,4-trifluoroaniline | 0.8 mole, 118 g | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | Hydroxyacetone | 1.08 mole, 80 g | OCC(C)=O | C3H6O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | N-(3-hydroxy-2-propyl)-2,3,4-trifluoroaniline | OCC(C)NC1=C(C(=C(C=C1)F)F)F | C9H10F3NO
